US05030733
To a refluxing mixture of 1.26 g of magnesium turnings, 15.5 ml of 1-chlorohexadecane, and 100 ml of anhydrous diethyl ether were added 0.5 ml of a 3.2M solution of methylmagnesium bromide in diethyl ether and 0.05 ml of ethyl bromide. The reaction mixture was refluxed for a period of 6 hours. A solution of 3.0 g of 4-[(tetrahydro-2H-pyran-2-yl)oxy]butanal in 10 ml of diethyl ether was added, and the reaction mixture refluxed for an additional hour. The reaction mixture was poured into a mixture of ice and a saturated aqueous solution of ammonium chloride, and filtered. Upon standing the filtrate separated into organic and inorganic phases. The organic phase was dried over anhydrous sodium sulfate and concentrated to an oil. Flash chromatography of the oil utilizing 25% diethyl ether/petroleum ether yielded 4.8 g (70%) of 1-[(tetrahydro-2H-pyran-2-yl)oxy]eicosan-4-ol as a solid, mp 39°-43°.

reactant | magnesium | 1.26 g | [Mg] | Mg
reactant | 1-chlorohexadecane | 15.5 ml | ClCCCCCCCCCCCCCCCC | C16H33Cl
reactant | methylmagnesium bromide | C[Mg]Br
reactant | 4-[(tetrahydro-2H-pyran-2-yl)oxy]butanal | 3.0 g | O1C(CCCC1)OCCCC=O | C9H16O3
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl bromide | 0.05 ml | C(C)Br | C2H5Br
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1-[(tetrahydro-2H-pyran-2-yl)oxy]eicosan-4-ol | 4.8 g, 70% | O1C(CCCC1)OCCCC(CCCCCCCCCCCCCCCC)O | C25H50O3
